US09328117B2
A mixture of DPPA (264 mg, 0.96 mmol), t-BuOH (1.0 mL), TEA (0.96 mmol), (S)-3-methyl-6-(methyl(1-phenylethyl)amino)-[1,2,4]triazolo[4,3-b]pyridazine-8-carboxylic acid (200 mg, 0.64 mmol) in anhydrous 1,4-dioxane (10 mL) was heated to reflux and stirred for overnight. The mixture was quenched with water (40 mL) and extracted with EA (30 mL*3). The combined organic layers were washed with brine (50 mL), dried over Na2SO4 and concentrated in vacuum. The residue was purified by flash column chromatography (silica-gel, DCM: MeOH=10:1) to give product (S)-tert-butyl3-methyl-6-(methyl(1-phenylethyl)amino)-[1,2,4]triazolo[4,3-b]pyridazin-8-ylcarbamate as a yellow oil (60 mg, 24.5%). 1H NMR (300 MHz, CDCl3) δ: 7.55 (s, 1H), 7.29˜7.34 (m, 5H), 5.81˜5.83 (s, 1H), 2.81 (s, 3H), 2.66 (s, 3H), 1.61 (d, 3H, J=6.9 Hz), 1.54 (s, 9H). LRMS (M+H+) m/z: calcd 383; found 383.

reactant | DPPA | 0.96 mmol, 264 mg | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | t-BuOH | 1.0 mL | CC(C)(C)O | C4H10O
reactant | (S)-3-methyl-6-(methyl(1-phenylethyl)amino)-[1,2,4]triazolo[4,3-b]pyridazine-8-carboxylic acid | 0.64 mmol, 200 mg | CC1=NN=C2N1N=C(C=C2C(=O)O)N([C@@H](C)C2=CC=CC=C2)C | C16H17N5O2
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (S)-tert-butyl3-methyl-6-(methyl(1-phenylethyl)amino)-[1,2,4]triazolo[4,3-b]pyridazin-8-ylcarbamate | 60 mg, 24.5% | C(C)(C)(C)OC(NC=1C=2N(N=C(C1)N([C@@H](C)C1=CC=CC=C1)C)C(=NN2)C)=O | C20H26N6O2
